### PR TITLE
[Merged by Bors] - feat(SimpleGraph): eccentricity, radius, and center

### PR DESCRIPTION
**Pull request by Rida-Hamadani**
This PR defines the eccentricity of a vertex, the radius, and the center of a simple graph, and provides an API for them. They are placed in the `Diam.lean` file because they are closely related and have a similar API. Also this PR redefines `SimpleGraph.ediam` in terms of eccentricity, which shortens some of its proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 1]
```diff
@@ -29,29 +31,85 @@ assert_not_exists Field
...
+  ⨆ v, G.edist u v
+
+lemma eccent_def : G.eccent = fun u ↦ ⨆ v, G.edist u v := rfl
+
+lemma edist_le_ecc (u v : α) : G.edist u v ≤ G.eccent u :=
+  le_iSup (G.edist u) v
+
+lemma exists_edist_eq_eccent_of_finite [Finite α] (u : α) :
+    ∃ v, G.edist u v = G.eccent u :=
+  haveI : Nonempty α := Nonempty.intro u
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:47]:
```suggestion
  have : Nonempty α := Nonempty.intro u
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 2]
```diff
@@ -29,29 +31,85 @@ assert_not_exists Field
...
+
+lemma eccent_eq_top_of_not_connected (h : ¬G.Connected) (u : α) :
+    G.eccent u = ⊤ := by
+  rw [connected_iff_exists_forall_reachable] at h
+  push_neg at h
+  obtain ⟨v, h⟩ := h u
+  rw [eq_top_iff, ← edist_eq_top_of_not_reachable h]
+  exact le_iSup (G.edist u) v
+
+lemma eccent_ne_zero [Nontrivial α] (u : α) : G.eccent u ≠ 0 := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:58]: Can you show it is zero if the vertex set is subsingleton? (provided that's true, if not then let's still have some lemmas about it in the subsingleton case, I presume they're all pretty basic)

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 3]
```diff
@@ -228,4 +276,77 @@ lemma connected_iff_diam_ne_zero [Fintype α] [Nontrivial α] : G.Connected ↔
...
+
+lemma ediam_le_radius_mul_two [Finite α] : G.ediam ≤ 2 * G.radius := by
+  cases isEmpty_or_nonempty α
+  · rw [radius_eq_top_of_isEmpty]
+    exact le_top
+  · by_cases h : G.Connected
+    · obtain ⟨u, v, h⟩ := G.exists_edist_eq_ediam_of_ne_top (connected_iff_ediam_ne_top.mp h)
+      obtain ⟨w, hw⟩ := G.center_nonempty
+      exact le_trans (h.symm ▸ G.edist_triangle (v := w))
+      <| two_mul G.radius ▸ hw ▸ add_le_add (G.edist_comm ▸ G.edist_le_ecc w u) (G.edist_le_ecc w v)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:338]: This is pretty unpleasant, let's put this back to a tactic mode proof; maybe starting with `refine le_trans (h.symm ▸ G.edist_triangle (v := w)) ?_`. (Maybe you don't need the .symm too?)

**Review by b-mehta — COMMENTED** [review]
This is in pretty good shape

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 2 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:61]: Thanks for the review! Actually that's true as an `iff` statement even (I've added it).

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 4]
```diff
@@ -8,19 +8,21 @@ import Mathlib.Combinatorics.SimpleGraph.Metric
...
-- `SimpleGraph.ediam` is the graph extended diameter.
+- `SimpleGraph.eccent`: the eccentricity of a vertex in a simple graph, which is the maximum
+  distances between it and the other vertices.
 
-- `SimpleGraph.diam` is the graph diameter.
+- `SimpleGraph.ediam`: the graph extended diameter, which is the maximum eccentricity.
+  It is `ℕ∞`-valued.
 
-## Todo
+- `SimpleGraph.diam`: an `ℕ`-values version of `SimpleGraph.ediam`.
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:21]:
```suggestion
- `SimpleGraph.diam`: the graph diameter, an `ℕ`-valued version of `SimpleGraph.ediam`.
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 5]
```diff
@@ -29,29 +31,94 @@ assert_not_exists Field
...
+
+lemma edist_le_eccent (u v : α) : G.edist u v ≤ G.eccent u :=
+  le_iSup (G.edist u) v
+
+lemma exists_edist_eq_eccent_of_finite [Finite α] (u : α) :
+    ∃ v, G.edist u v = G.eccent u :=
+  have : Nonempty α := Nonempty.intro u
+  exists_eq_ciSup_of_finite
+
+lemma eccent_eq_top_of_not_connected (h : ¬G.Connected) (u : α) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:50]:
```suggestion
lemma eccent_eq_top_of_not_connected (h : ¬ G.Connected) (u : α) :
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 6]
```diff
@@ -29,29 +31,94 @@ assert_not_exists Field
...
+lemma eccent_eq_zero_of_subsingleton [Subsingleton α] (u : α) : G.eccent u = 0 := by
+  simpa [eccent, edist_eq_zero_iff] using subsingleton_iff.mp ‹_› u
+
+lemma eccent_ne_zero [Nontrivial α] (u : α) : G.eccent u ≠ 0 := by
+  obtain ⟨v, huv⟩ := exists_ne ‹_›
+  contrapose! huv
+  simp only [eccent, ENat.iSup_eq_zero, edist_eq_zero_iff] at huv
+  exact (huv v).symm
+
+lemma eccent_eq_zero_iff (u : α) : G.eccent u = 0 ↔ Subsingleton α := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:67]: Let's also add eccent_pos_iff : 0 < G.eccent u ↔ Nontrivial α

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 7]
```diff
@@ -29,29 +31,94 @@ assert_not_exists Field
...
+  rw [eccent, iSup_le_iff]
+  intro v
+  cases eq_or_ne u v <;> simp_all [edist_top_of_ne]
+
+lemma eq_top_iff_forall_eccent_eq_one [Nontrivial α] :
+    G = ⊤ ↔ ∀ u, G.eccent u = 1 := by
+  refine ⟨fun h ↦ h ▸ eccent_top, fun h ↦ ?_⟩
+  ext u v
+  exact ⟨Adj.ne, fun huv ↦ edist_eq_one_iff_adj.mp <| le_antisymm ((h u).symm ▸ edist_le_eccent u v)
+  <| Order.one_le_iff_pos.mpr <| pos_iff_ne_zero.mpr <| edist_eq_zero_iff.ne.mpr huv.ne⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:89]: This one looks like it needs a bit more tactic mode too!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 8]
```diff
@@ -29,29 +31,94 @@ assert_not_exists Field
...
 
+section eccent
+
+/-- The eccentricity of a vertex is the greatest distance between it and any other vertex. -/
+noncomputable def eccent (G : SimpleGraph α) (u : α) : ℕ∞ :=
+  ⨆ v, G.edist u v
+
+lemma eccent_def : G.eccent = fun u ↦ ⨆ v, G.edist u v := rfl
+
+lemma edist_le_eccent (u v : α) : G.edist u v ≤ G.eccent u :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:42]:
```suggestion
lemma edist_le_eccent {u v : α} : G.edist u v ≤ G.eccent u :=
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 9]
```diff
@@ -29,29 +31,94 @@ assert_not_exists Field
...
+  ⨆ u, G.eccent u
+
+lemma ediam_eq_iSup_iSup_edist : G.ediam = ⨆ u, ⨆ v, G.edist u v :=
+  rfl
 
 lemma ediam_def : G.ediam = ⨆ p : α × α, G.edist p.1 p.2 := by
-  rw [ediam, iSup_prod]
+  rw [ediam, eccent_def, iSup_prod]
+
+lemma eccent_le_ediam (u : α) : G.eccent u ≤ G.ediam :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:108]:
```suggestion
lemma eccent_le_ediam {u : α} : G.eccent u ≤ G.ediam :=
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 10]
```diff
@@ -131,22 +198,12 @@ lemma ediam_bot [Nontrivial α] : (⊥ : SimpleGraph α).ediam = ⊤ :=
...
-  refine ⟨fun h₁ ↦ ?_, fun h ↦ h ▸ ediam_top⟩
-  ext u v
-  refine ⟨fun h ↦ h.ne, fun h₂ ↦ ?_⟩
-  apply G.edist_pos_of_ne at h₂
-  apply le_of_eq at h₁
-  rw [ediam_def, iSup_le_iff] at h₁
-  exact edist_eq_one_iff_adj.mp <| le_antisymm (h₁ (u, v)) <| Order.one_le_iff_pos.mpr h₂
+lemma ediam_eq_one [Nontrivial α] : G.ediam = 1 ↔ G = ⊤ :=
+  ⟨fun h ↦ eq_top_iff_forall_eccent_eq_one.mpr fun u ↦ le_antisymm (h.symm ▸ eccent_le_ediam u)
+  <| Order.one_le_iff_pos.mpr <| pos_iff_ne_zero.mpr <| eccent_ne_zero u, fun h ↦ h ▸ ediam_top⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:206]: Tactic mode for this one too, please! Nice one-line term mode proofs are nice, but this one is too long to count as one of those!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 11]
```diff
@@ -228,4 +285,78 @@ lemma connected_iff_diam_ne_zero [Fintype α] [Nontrivial α] : G.Connected ↔
...
+/-- The radius of a simple graph is the minimum eccentricity of any vertex. -/
+noncomputable def radius (G : SimpleGraph α) : ℕ∞ :=
+  ⨅ u, G.eccent u
+
+/-- The center of a simple graph is the set of vertices with eccentricity equal to the radius. -/
+def center (G : SimpleGraph α) : Set α :=
+  {u | G.eccent u = G.radius}
+
+lemma center_nonempty [Nonempty α] : G.center.Nonempty :=
+  ENat.exists_eq_iInf G.eccent
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:299]: Let's put the `center` lemmas after all the `radius` lemmas. Since we don't have many about the center, we could also leave it out for now?

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 12]
```diff
@@ -228,4 +285,78 @@ lemma connected_iff_diam_ne_zero [Fintype α] [Nontrivial α] : G.Connected ↔
...
+
+lemma radius_eq_iInf_iSup_edist : G.radius = ⨅ u, ⨆ v, G.edist u v :=
+  rfl
+
+lemma radius_le_eccent (u : α) : G.radius ≤ G.eccent u :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:304]:
```suggestion
lemma radius_le_eccent {u : α} : G.radius ≤ G.eccent u :=
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 13]
```diff
@@ -228,4 +285,78 @@ lemma connected_iff_diam_ne_zero [Fintype α] [Nontrivial α] : G.Connected ↔
...
+  iInf_le G.eccent u
+
+lemma radius_eq_top_of_not_connected (h : ¬G.Connected) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:307]:
```suggestion
lemma radius_eq_top_of_not_connected (h : ¬ G.Connected) :
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 14]
```diff
@@ -228,4 +285,78 @@ lemma connected_iff_diam_ne_zero [Fintype α] [Nontrivial α] : G.Connected ↔
...
+    G.radius = ⊤ := by
+  simp [radius, eccent_eq_top_of_not_connected h]
+
+lemma radius_eq_top_of_isEmpty [IsEmpty α] : G.radius = ⊤ :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:311]: Is there a general G.radius = top iff lemma around here? Or maybe one under the assumption that alpha is nontrivial or something, which mentions connectivity?

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 15]
```diff
@@ -228,4 +285,78 @@ lemma connected_iff_diam_ne_zero [Fintype α] [Nontrivial α] : G.Connected ↔
...
+lemma ediam_le_two_mul_radius [Finite α] : G.ediam ≤ 2 * G.radius := by
+  cases isEmpty_or_nonempty α
+  · rw [radius_eq_top_of_isEmpty]
+    exact le_top
+  · by_cases h : G.Connected
+    · obtain ⟨u, v, h⟩ := G.exists_edist_eq_ediam_of_ne_top (connected_iff_ediam_ne_top.mp h)
+      obtain ⟨w, hw⟩ := G.center_nonempty
+      apply le_trans (h ▸ G.edist_triangle (v := w))
+      rw [two_mul]
+      exact hw ▸ add_le_add (G.edist_comm ▸ G.edist_le_eccent w u) (G.edist_le_eccent w v)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:348]: (this is a nice term-mode bit, imo!)

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 11 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:299]: It looks like that proof should still be work if you just use `ENat.exists_eq_iInf G.eccent`? I'd prefer to either have `center` with all the basic lemmas or not have it at all

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:299]: I'm happy to add a basic center API

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 14 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:311]: The one you describe is more general, but I think the practical one assumes both those instances, so let's do that one

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 16]
```diff
@@ -103,11 +176,19 @@ lemma preconnected_of_ediam_ne_top (h : G.ediam ≠ ⊤) : G.Preconnected :=
...
+-- Note: Neither `Finite α` nor `G.ediam ≠ ⊤` implies the other.
+lemma exists_eccent_eq_ediam_of_finite [Nonempty α] [Finite α] :
+    ∃ u, G.eccent u = G.ediam :=
+  exists_eq_ciSup_of_finite
+
 lemma exists_edist_eq_ediam_of_ne_top [Nonempty α] (h : G.ediam ≠ ⊤) :
     ∃ u v, G.edist u v = G.ediam :=
   ENat.exists_eq_iSup₂_of_lt_top h.lt_top
 
--- Note: Neither `Finite α` nor `G.ediam ≠ ⊤` implies the other.
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:110]: I think we can keep this one; it's a duplicate of the earlier one but I think that's fine

**Review by b-mehta — APPROVED** [review]
Thanks!

bors d+
